US07067529B2
To a stirred solution of 6-butoxy-7-methoxy-1-(3-methoxy-benzyl)-isoquinoline-4-carbaldehyde (200 mg, 0.53 mmol) in acetic acid (5 mL) was added selenium dioxide (175 mg, 1.58 mmol). The reaction mixture was heated at 120° C. for 1 h. The solvent was evaporated and the residue was diluted with dichloromethane (30 mL). The organic layer was washed with saturated aqueous sodium bicarbonate solution (20 mL), saturated aqueous sodium chloride solution (20 mL), dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to afford a crude oil. Flash chromatography (Merck Silica gel 60, 70–230 mesh, 40% ethyl acetate/hexane) afforded 6-butoxy-7-methoxy-1-(3-methoxy-benzoyl)-isoquinoline-4-carbaldehyde as a yellow solid (131 mg, 63% yield).

reactant | 6-butoxy-7-methoxy-1-(3-methoxy-benzyl)-isoquinoline-4-carbaldehyde | 0.53 mmol, 200 mg | C(CCC)OC=1C=C2C(=CN=C(C2=CC1OC)CC1=CC(=CC=C1)OC)C=O | C23H25NO4
reactant | selenium dioxide | 1.58 mmol, 175 mg | [Se](=O)=O | O2Se
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 6-butoxy-7-methoxy-1-(3-methoxy-benzoyl)-isoquinoline-4-carbaldehyde | 131 mg, 63% yield | C(CCC)OC=1C=C2C(=CN=C(C2=CC1OC)C(C1=CC(=CC=C1)OC)=O)C=O | C23H23NO5
